Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Lightheadedness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with PMH notable for being a
hemochromatosis carrier, who presents with lightheadedness.
Patient states that over the past 3 months he has had
intermittent lightheadedness occurring a few seconds after he
stands up and starts walking. It lasts for a second and he has
associated vision changes, described as vision "going black". 
The
vision changes then resolves completely. He has not syncopized
during this time he has no chest pain, shortness of breath, or
abdominal pain. He endorses associated nausea but denies
vomiting. Denies family history of sudden cardiac death. 

Additionally, he reports a 20 pound weight loss over the past 12
months that was unintentional. He denies cough, night sweats,
history of incarceration, hemoptysis, recent travel, or lower
extremity swelling. 

He was seen by his primary care doctor multiple times and has
follow-up with a cardiologist. He went back to his primary care
doctor today prior to presentation and was found to be
hypotensive, which prompted his referral to the emergency
department.    
 
Past Medical History:
- Hemochromatosis carrier
 
Social History:
___
Family History:
Father - hemochromatosis 
___ great-grandfather - colon cancer
___ grandfather - CAD s/p CABG
Paternal uncle - heart transplant (unsure why)
Maternal aunt/grandmother - breast cancer
Maternal aunt - pancreatic cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T 98.2 BP 113/62 HR 73 RR 14 O2 100% RA 
GENERAL: Well-appearing, well-groomed young man, resting
comfortably in bed, in NAD
HEENT: NC/AT, EOMI, PERRL, anicteric sclera, MMM
NECK: Supple, no JVD
HEART: RRR, normal S1/S2, no m/r/g
LUNGS: CTAB, breathing comfortably on RA without use of 
accessory
mm, no wheezes/rhonci/rales
ABDOMEN: Soft, non-tender, non-distended, active bowel sounds, 
no
organomegaly
GU: Testicles without edema or palpable masses, no inguinal
lympahdenopahy, no penile discharge
EXTREMITIES: No c/c/e
SKIN: Warm, well-perfused, no ___
NEURO: Alert, oriented x3, CN II-XII intact, ___ strength in b/l
upper and lower extremities, normal sensation 

DISCHARGE PHYSICAL EXAM:
Vitals - T 98.0, RR 12, 100% RA
Orthostatics done by myself:  100/60 sitting, 88/55 standing
GENERAL: Well-appearing, well-groomed young man, NAD.  Able to 
ambulate the halls with me without any acute distress
HEART: regular rate and rhythm,
LUNGS: CTAB, breathing comfortably
ABDOMEN: Soft, non-tende
EXTREMITIES: warm, well perfused,
SKIN: Perhaps mild hyperpigmentation/tanning.
NEURO: Normal gait, alert, oriented x3
 
Pertinent Results:
ADMISSION LABS
=======================
___ 12:12AM BLOOD WBC-7.2 RBC-4.46* Hgb-13.1* Hct-38.0* 
MCV-85 MCH-29.4 MCHC-34.5 RDW-12.5 RDWSD-38.4 Plt ___
___ 12:12AM BLOOD Neuts-41.3 ___ Monos-7.3 Eos-2.5 
Baso-0.7 Im ___ AbsNeut-2.98 AbsLymp-3.47 AbsMono-0.53 
AbsEos-0.18 AbsBaso-0.05
___ 06:05AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL 
Ovalocy-OCCASIONAL
___ 12:12AM BLOOD Plt ___
___ 12:12AM BLOOD Glucose-99 UreaN-26* Creat-0.9 Na-130* 
K-4.9 Cl-97 HCO3-27 AnGap-6*
___ 12:12AM BLOOD ALT-66* AST-58* AlkPhos-66 TotBili-0.5
___ 12:12AM BLOOD Albumin-4.2 Calcium-9.6 Phos-5.2* Mg-1.6

IMAGING
==========================
CXR ___
IMPRESSION:  
No acute cardiopulmonary process. 

RUQUS ___
IMPRESSION: 
1. No cholelithiasis or sonographic evidence of acute 
cholecystitis. 
2. No evidence of hepatic lesion. 
3. Mild splenomegaly measuring 13.7 cm. 

OTHER PERTINENT LABS
==========================
___ 06:05AM BLOOD calTIBC-299 VitB12-752 Folate-15 
Ferritn-604* TRF-230
___ 06:05AM BLOOD FSH-2.5 LH-12* Prolact-35* TSH-2.8
___ 06:05AM BLOOD Free T4-1.0

___ 06:05AM BLOOD Cortsol-0.3* (prior to ___ stim testing)
___ 12:40PM BLOOD Cortsol-0.3* (after ___ stim testing)

___ 06:05AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 06:05AM BLOOD HCG-<5
___ 06:05AM BLOOD AFP-4.6
___ 06:05AM BLOOD IgA-110
___ 06:05AM BLOOD HIV Ab-NEG
___ 06:05AM BLOOD tTG-IgA-1

DISCHARGE LABS
=============================
___ 06:09AM BLOOD Glucose-89 UreaN-24* Creat-1.0 Na-139 
K-4.0 Cl-99 HCO3-24 AnGap-16
 
Brief Hospital Course:
Mr. ___ is ___ with no relevant PMH who presents with 
orthostatic hypotension and 20lbs weight loss, found to have 
significantly low cortisol with no response to ACTH stimulation 
testing, c/w primary adrenal insufficiency (likely of autoimmune 
etiology).

# Orthostatic hypotension
# Weight loss
# Fatigue
# Primary adrenal insufficiency
Patient presented with orthostatic hypotension that was only 
minimally responsive to fluids, 20lbs unintentional weight loss 
over 6 months, progressive fatigue and occasional vomiting. He 
was found to have hyponatremia, borderline hyperkalemia, and 
significantly low am cortisol level (0.3) which did not increase 
with ACTH stimulation (repeat cortisol 0.3), all consistent with 
primary adrenal insufficiency. The etiology of his primary 
adrenal insufficiency is most likely auto-immune, given his age 
and lack of risk factor for TB or malignancy. The patient 
received 1 dose of IV hydrocortisone 50 mg on ___ followed by 
starting PO hydrocortisone the evening of ___, with 
orthostatics and symptoms of dizziness improved. He was 
discharged on a twice daily regimen of 15mg hydrocortisone q8AM 
/ 5 mg hydrocortisone q2PM. He was additionally started on 0.1 
mg fludrocortisone daily. IGF-1, Aldosterone, ACTH, and 
21-hydroxylase antibody levels were pending at discharge. His 
other pituitary axis hormone levels were within normal range, 
other than an elevated Prolactin to 35. The plan was for him to 
follow-up with Endocrinology in ___ weeks, at which time a 
Prolactin level would be rechecked. He was also discharged with 
a prescription for Solu-Cortef 100 mg IM to be used in the event 
of unconsciousness or inability to take p.o. He was educated 
about his new disease and how to care for himself in times of 
illness/stress in the future, as well as the need for a Medical 
Alert bracelet.

# Hyponatremia
Na 130 on presentation, resolved with IVF and steroids. Etiology 
most likely secondary to adrenal insufficiency.

# Transaminitis
Mild transaminitis in hepatocellular pattern, stable from OP 
labs. RUQUS is within normal limits, except for mild 
splenomegaly. Hep B/C and HIV negative. Elevated ALT/AST can be 
seen in adrenal insufficiency and this is most likely 
explanation, however given family history of hemochromatosis, 
may benefit from outpatient re-check and hepatology referral if 
they have not normalized at that time.

# Hep B non-immune
Found on labs to be non-immune. Recommend vaccination as an 
outpatient.

# Normocytic anemia
Has mild normocytic anemia that is unchanged from prior labs 
done at ___. Iron studies suggest adequate iron 
stores. Elevated Ferritin may represent acute 
inflammation/stress, or may be secondary to known 
hemochromatosis carrier status. Folate, B12 were normal. No 
evidence of hemolysis (normal LDH and Bilirubin) or red blood 
cell morphology abnormalities.

TRANSITIONAL ISSUES:
# New Medications: Started on 15 mg hydrocortisone q8AM / 5 mg 
hydrocortisone q 2PM. He was additionally started on 0.1 mg 
fludrocortisone daily. Also prescribed Solu-Cortef 100 mg IM to 
be used in the event of unconsciousness or inability to take PO.
# Will need follow-up with Endocrinology in ___ weeks. At that 
time, a Prolactin level should be rechecked. (Elevated to 35 
here).
# Recheck LFTs as an outpatient and consider Hepatology referral 
if persistently elevated transaminitis.
# Hep B non-immune: recommend vaccination as outpatient
# Recommend repeat ferritin as an outpatient, consider referral 
to hepatology if remains elevated given family history of 
hemochromatosis.
# Pending labs at time of discharge: ACTH, Aldosterone, 
Insulin-Like Growth Factor-1, 21-Hydroxylase Antibody
 
Medications on Admission:
None
 
Discharge Medications:
1.  Fludrocortisone Acetate 0.1 mg PO DAILY 
RX *fludrocortisone 0.1 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1 
2.  Hydrocortisone 15 mg PO DAILY morning 
morning 
RX *hydrocortisone 5 mg 3 tablet(s) by mouth every morning Disp 
#*90 Tablet Refills:*0 
3.  Hydrocortisone 5 mg PO DAILY 2pm 
2pm 
RX *hydrocortisone 5 mg 1 tablet(s) by mouth every afternoon at 
2pm Disp #*30 Tablet Refills:*0 
4.  Solu-CORTEF (hydrocorTISone Sod Succinate) 100 mg 
intramuscular AS NEEDED 
unconscious, inability to take PO, blood loss more than 1 cup 
RX *hydrocortisone sod succinate [Solu-Cortef] 100 mg 100 mg IM 
as needed Disp #*2 Vial Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adrenal Insufficiency
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

Why was I here?
- You were admitted to the hospital because you were very 
lightheaded and found to have a low blood pressure.

What was done for me here?
- You were diagnosed with a new illness, primary adrenal 
insufficiency. 
- Your low blood pressure, nausea, and other symptoms were 
treated with fluids, as well as starting replacement hormones 
(steroids). 
- We also sent off many labs to rule out other conditions and 
make sure that other hormones in your body were functioning 
well. 
- You were seen by our colleagues in Endocrinology and educated 
about your new diagnosis. They taught you how to increase your 
dose in times of illness/stress, the need for a home injectable 
steroid (if you are ill or cannot take in pills by mouth), and 
their recommendation to obtain a Medical Alert bracelet to wear. 


What should I do when I go home?
- Continue taking your new medications: hydrocortisone twice 
daily (15 mg in the morning, 5 mg in the afternoon), and 
fludrocortisone 0.1 mg daily.
- We recommend that you follow-up with your primary care 
provider ___ 1 week and obtain a referral for an Endocrinology 
specialist. 

Please call your doctor if you have any more lightheadedness, 
fatigue, nausea, abdominal pain, trouble breathing, or chest 
pain. 
 
It was a pleasure taking care of you! Best of luck in the coming 

weeks.

Your ___ Inpatient Care Team

In case you would like to contact Endocrinology at ___ 
Vanguard yourself to make an appointment, the contact 
information is below:

Endocrinology at ___:
(You may need to contact your PCP first for ___ referral to ___ 
Endocrine)
___ Office - ___ 
___ - ___ 
Other locations can be seen online
 
Followup Instructions:
___